US06458772B1
b) 1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)glycerol
1-O-(N-tert-butoxycarbonyl-L-valyl)glycerol (17.95 g. 61.6 mmol), Boc-L-valine (6.69 g, 30.8 mmol), DMAP (0.38 g, 3.1 mmol), and DCC (7.10 g, 34.4 mmol) in 240 mL CH2Cl2 and 60 mL DMF were stirred at rt under N2 for 18 h. The EtOAc. The organic solution was washed with 50 mL saturated NH4Cl. The aqueous phase was reextracted with 50 mL EtOAc. The organic phases were combined, washed successively with 50 mL saturated NaHCO3 and 50 mL brine, dried over Na2SO4, and concentrated under vacuum. Flash column chromatography of the crude material on silica gel (eluent 2/1 petroleum ether—EtOAc, and then EtOAc) gave 7.41 g (49%) of the title compound (alternative nomenclature: 1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propanol).

reactant | 1-O-(N-tert-butoxycarbonyl-L-valyl)glycerol | 61.6 mmol, 17.95 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)OCC(O)CO | C13H25NO6
reactant | Boc-L-valine | 30.8 mmol, 6.69 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DCC | 34.4 mmol, 7.10 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | DMAP | 3.1 mmol, 0.38 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 240 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)glycerol | 7.41 g, 49% | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)OCC(O)COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C23H42N2O9
